US05135945
A mixture of 3.55 g (0.01 mol) of 3,4-dihydro-2-(2- bromoethyl)-2,5,7,8-tetramethyl-2H-benzopyran-6-yl acetate and 2.0 g of liquid dimethylamine in 50 ml of dimethylformamide is stirred at room temperature for 40 hours. Water is added and the product is extracted with ethyl acetate and ethyl ether. The extract is washed with water, dried over anhydrous sodium sulfate, filtered and evaporated. The resulting oil crystallizes from a mixture of ethyl ether and pentane to give 2.05 g of 3,4-dihydro-2-(2-dimethylaminoethyl)-2,5,7,8-tetramethyl-2H-benzopyran-6-yl acetate as the free base. The hydrochloride salt prepared by standard methods and recrystallized from isopropanol has m.p. 263°-270° C.

reactant | 3,4-dihydro-2-(2- bromoethyl)-2,5,7,8-tetramethyl-2H-benzopyran-6-yl acetate | 0.01 mol, 3.55 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)CCBr)C1C)C)C | C17H23BrO3
reactant | dimethylamine | CNC | C2H7N
reactant | Water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-2-(2-dimethylaminoethyl)-2,5,7,8-tetramethyl-2H-benzopyran-6-yl acetate | 2.05 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)CCN(C)C)C1C)C)C | C19H29NO3
